US06103459
Analogous to Example 13, 5.33 g (10 mmol) of N,N'-bis(trimethylsilyl)-1,2-di(pentafluorophenyl)-ethanediimine, which was made in Example 2, was reacted with 10 mmol (1.0 g) of phosgene to yield 3.4 g (8.2 mmol, 82%) of 4,5-di(pentafluorophenyl)-2H-imidazol-2-one as a dark red solid. This product is also referred to as decafluorobenzilimidazolone. 3C[1H]NMR (δ; CDCl3) 177.6 ppm (>C=O--; s), 156.2 ppm (>C=N--; t, J3 =13.4 Hz), 112.6 ppm (i, t, J2 =23.6 Hz), 138.1 ppm (dt, J1 =254 Hz), 142.7 (dm, J1 =254 Hz), 144.5 ppm (dd, J1 =249 Hz). Elemental analysis was carried out: calcd (found) for C15F10N2O: C, 43.50% (43.57%), F, 45.87% (45.82%), N, 6.76% (6.71%), O, 3.86% (3.78%).

reactant | N,N'-bis(trimethylsilyl)-1,2-di(pentafluorophenyl)-ethanediimine | 10 mmol, 5.33 g | C[Si](N=C(C(=N[Si](C)(C)C)C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)(C)C | C20H18F10N2Si2
reactant | phosgene | 10 mmol, 1.0 g | C(=O)(Cl)Cl | CCl2O
product | 4,5-di(pentafluorophenyl)-2H-imidazol-2-one | 8.2 mmol, 3.4 g, 82% | FC1=C(C(=C(C(=C1C1=NC(N=C1C1=C(C(=C(C(=C1F)F)F)F)F)=O)F)F)F)F | C15F10N2O
